US06388084B1
To a suspension of N-[(2,6-dichlorophenyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester (243 mg, 0.45 mmol) in ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (1.8 mL) at room temperature. The mixture was heated to 45-50° C. and was stirred for 2 h. Then, the ethanol was removed under vacuum and the residue was diluted with water (20 mL). The aqueous solution was washed with ethyl acetate (50 mL) to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and the product was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine solution (50 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration afforded 186 mg (79% yield) of N-[(2,6-dichlorophenyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine as an amorphous white solid. ES-HRMS m/e calcd for C24H19Cl2F3N2O4 (M+Na) 549.0567, found 549.0573.

reactant | N-[(2,6-dichlorophenyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | 0.45 mmol, 243 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)=O | C25H21Cl2F3N2O4
reactant | sodium hydroxide | 1N, 1.8 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-[(2,6-dichlorophenyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine | 186 mg, 79% yield | ClC1=C(C(=CC=C1)Cl)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)C(=O)O | C24H19Cl2F3N2O4
